.title KiCad schematic
.include "./edt01.sub"
.model __D1 D
.model __D2 D
D1 Net-_D1-A_ Net-_D1-K_ __D1
Vid1 Net-_Vid1-Pad1_ Net-_D1-A_ DC 0 
L1 Net-_D1-K_ /o 1m
D2 Net-_D2-A_ Net-_D1-K_ __D2
Vid2 Net-_Vid2-Pad1_ Net-_D2-A_ DC 0 
Xfmpush1 Net-_Viq2-Pad1_ Net-_Vse1-Pad1_ Net-_Viq1-Pad1_ Net-_Vid1-Pad1_ /r1 Net-_Vid2-Pad1_ xfmpush Np=10 Ns=20 C=100uF
C1 /o /r1 100u
R1 /o /r1 10
XxSW2 Net-_Viq1-Pad2_ 0 /g1 power_sw
Viq1 Net-_Viq1-Pad1_ Net-_Viq1-Pad2_ DC 0 
XxSW1 Net-_Viq2-Pad2_ 0 /g3 power_sw
Viq2 Net-_Viq2-Pad1_ Net-_Viq2-Pad2_ DC 0 
Vc1 Net-_Vc1-Pad1_ 0 DC 0.5 
XPWM_B1 Net-_Vc1-Pad1_ /g1 /g2 /g3 /g4 PWMbridge fs=10000
Vse1 Net-_Vse1-Pad1_ 0 DC 10 
.tran 0.1us 30ms
.print tran V(Net-_Vc1-Pad1_) V(/o) I(L1) V(Net-_Vid1-Pad1_) V(Net-_Vid2-Pad1_)
.end
