.title KiCad schematic
.include "./edt01.sub"
.model __D1 D
XxPWM1 Net-_V2-Pad1_ /PWM_out PWMtri fs=10000
L1 0 /L_in 100m
XxSW1 /In /L_in /PWM_out power_sw
D1 /R_in /L_in __D1
C1 /R_in 0 100u
R1 /R_in 0 100
V1 /In 0 DC 12
V2 Net-_V2-Pad1_ 0 DC 0.5
.tran 0.1us 30ms
.print tran V(/In) V(/L_in) V(/R_in) I(L1)
.end
