.title KiCad schematic
.include "./edt01.sub"
.model D1 D (IS=1e-15 RS=0.1 N=1 BV=100 IBV=1e-3 CJO=1p VJ=0.5 TT=1n)
XxPWM1 Net-_V2-Pad1_ /PWM_o PWMtri fs=10000
V1 /A 0 DC 12
C1 /C 0 100u
R1 /C 0 100
XxSW1 /A /B /PWM_o power_sw
V2 Net-_V2-Pad1_ 0 DC 0.5
D1 0 /B D1
L1 /B /C 10m
.tran 0.1us 30ms
.print tran V(/A) V(/B) V(/C) I(L1)
.end