.title RCC MPPT Buck Converter

*========================================================
* RCC MPPT POWER STAGE
*========================================================

*----------------------------
* Input Capacitor with ESR
*----------------------------
C1 /t nC1 100u
R_C1 nC1 0 0.05

*----------------------------
* Output Capacitor with ESR
*----------------------------
C2 /o nC2 100u
R_C2 nC2 0 0.05

*----------------------------
* Load
*----------------------------
R1 /o 0 100

*----------------------------
* Buck Inductor + ESR
*----------------------------
L1 /p nL1 1m
R_L1 nL1 0 0.05

*----------------------------
* Switch
*----------------------------
XxSW1 /t /p /g power_sw

*----------------------------
* Freewheel Diode
*----------------------------
D1 /o /p Def

*========================================================
* PV SOURCE
*========================================================

XxPV1 Net-_Vipv1-Pad1_ 0 PVSource 1 50

Vipv1 Net-_Vipv1-Pad1_ /t DC 0

*========================================================
* RCC POWER SENSING
*========================================================

* Instantaneous power
Bsense2 /a_raw 0 V = V(/t)*(I(Vipv1))

* Isolation RC
Riso /a_raw /a 1k
Ciso /a 0 1n

*========================================================
* RCC FILTERS
*========================================================

* Fast ripple filter
Xfiltfast1 /a /pd filt_ord_I 1 2ms

* Slow average filter
Xfiltslow1 /a /pb filt_ord_I 1 20ms

*========================================================
* RCC ERROR GENERATION
*========================================================

Xsumr1 /pb /pd Net-_tff1-t_ sum

*========================================================
* TOGGLE BLOCK
*========================================================

V2 Net-_V2-Pad1_ 0 PWL(
+ 0 1
+ 1us 1
+ 2us 0
+ 100ms 0
+ )

Xtff1 Net-_tff1-t_ /tog Net-_V2-Pad1_ 0 T_FF

*========================================================
* LOOP GAIN
*========================================================

Xgain1 /tog Net-_gain1-out_ gain 1.2

V1 Net-_V1-Pad1_ 0 DC 0.5

Xsumr2 Net-_gain1-out_ Net-_V1-Pad1_ Net-_filt3-in_ sum

* Compensation filter
Xfilt3 Net-_filt3-in_ /d filt_ord_I 1 2ms

*========================================================
* PWM
*========================================================

XxPWM1 /d /g PWMtri 1000

.end