.title KiCad schematic
.include "edt01_mppt.sub"
.include "pv.sub"
.model __D1 D
C2 /o 0 100u
R1 /o 0 100
L1 /p 0 10m
Xfilt3 Net-_filt3-in_ /d filt_ord_I k=1 tau=1
XxPWM1 /d /g PWMtri
Xfiltslow1 /a /pb filt_ord_I k=1 tau=100ms
Xtff1 Net-_tff1-t_ /tog Net-_V2-Pad1_ 0 T_FF
XSUMR1 /pb /pd Net-_tff1-t_ sum
XxPV1 Net-_Vipv1-Pad1_ 0 PVSource
Vipv1 Net-_Vipv1-Pad1_ /t DC 0 
Xfiltfast1 /a /pd filt_ord_I k=1 tau=1ms
*Xmul1 /t Net-_Bsense1-N+_ unconnected-_mul1-Pad3_ mul
*Bsense1 Net-_Bsense1-N+_ 0 v = i(Vipv1) 
Bsense2 /a 0 v = v(/t)*i(Vipv1) 
D1 /o /p Def
Xgain1 /tog Net-_gain1-out_ gain k=2
V2 Net-_V2-Pad1_ 0 PWL(0 1 1us 1 2us 0 1000ms 0)
C1 /t 0 100u
XxSW1 /t /p /g power_sw
V1 Net-_V1-Pad1_ 0 DC 1 
XSUMR2 Net-_gain1-out_ Net-_V1-Pad1_ Net-_filt3-in_ sum
.end
