*

.subckt PV_symbol


.include "/Users/manindersingh/Documents/ngspice/learnings/pvsim/subckt_PV_symbol_simulation/pv.sub"
XxPV1 /nV1 0 PVSource
R1 /nV1 Net-_R1-Pad2_ 10
V1 /nV1 Net-_R1-Pad2_ DC 0 SIN( 0 48 50 0 0 0 ) AC 1  

.ends
