.title KiCad schematic
.include "/Users/manindersingh/Documents/ngspice/learnings/pvsim/subckt_PV_symbol_simulation/pv.sub"
.save all
.probe alli
.probe p(XxPV1)
.probe p(V1)
XxPV1 /nV1 0 PVSource
V1 /nV1 0 DC 0 SIN( 0 48 50 0 0 0 ) AC 1  
.end
