.title KiCad schematic
.include "./rectifier.sub"
XD6 Net_D5_A 0 diode_power
XD4 Net_D2_A 0 diode_power
XD5 Net_D5_A Net_D5_A_C diode_power
Cf1 Net_L2_ 0 1000u
R1 Net_L2_ 0 25
XD2 Net_D2_A_C Net_D2_A diode_power
L2 Net_L2_Net Net_L2_ 0.1u
Rs1 La_ Rs_ 0.5
Rs2 Lb_ Net_D2_A 0.5
L3 b_ Lb_ 0.01u
Vin2 b_ n SIN(0 325 50 -13.33ms 0 0)
L4 c_ Lc_ 0.01u
Vin3 c_ n SIN(0 325 50 -6.66ms 0 0)
XD1 Rs_ Net_D1_A diode_power
Vin1 a_ n SIN(0 325 50 0 0 0)
L1 a_ La_ 0.01u
XD3 Rs_ 0 diode_power
Rs3 Lc_ Net_D5_A 0.5
.tran 1ms 50ms
.plot tran V(a_) V(b_) V(c_) V(La_) V(Lb_) V(Lc_) V(n)
.options abstol=1u reltol=0.001 vntol=1uV
.end
