*Library of custom compnents
*****************************
*Diodes
*****************************
.model Def D()
*****************************
*Diode macro model
.SUBCKT diode_power 101 102
DX 101 102 def_power_diode
Rsh 102 103 10000
Csh 103 102 0.01uF
.model def_power_diode D(Rs=0.01 , CJ0 =100pF)
.ENDS

