.title KiCad schematic
.include "./rectifier.sub"
XD2 /A /Vin- diode_power
XD4 /Vin- unconnected-_D4-A-Pad2_ diode_power
Cf1 /A 0 1000u
R0 /A 0 25
Rs1 /Vin+ /B 0.1
Vin1 /Vin+ /Vin- DC 0 SIN( 0 325 50 0 0 0 ) AC 1  
XD1 /A /B diode_power
XD3 /B 0 diode_power
.tran 1ms 50ms
.plot tran V(/A) V(/B) V(/Vin+) V(/Vin-)
.end
