.title KiCad schematic
.include "rectifier.sub"
R1 /L2- 0 25
Cf1 /L2- 0 1000u
XD4 /Vin- 0 diode_power
XD2 /_NO_NET_ /Vin- diode_power
L2 /_NO_NET_ /L2- 1u
XD1 /_NO_NET_ Net-_D1-A_ diode_power
Vin1 /Vin+ /Vin- DC 0 SIN( 0 325 50 -50ms 0 0 ) AC 1  
XD3 Net-_D1-A_ 0 diode_power
Rs1 /L- /Rs- 0.1
L1 /Vin+ /L- 0.01u
.end
