.title KiCad schematic
.include "/Users/manindersingh/Documents/ngspice/learnings/rectifier/non-idealities/rectifier.sub"
.save all
XD3 /Rs- 0 diode_power
XD2 /_NO_NET_ /Vin- diode_power
L2 /_NO_NET_ /L2- 1u
R1 /L2- 0 25
Cf1 /L2- 0 1000u
XD4 /Vin- 0 diode_power
Rs1 /L- /Rs- 0.1
L1 /Vin+ /L- 0.01u
XD1 /Rs- /_NO_NET_ diode_power
Vin1 /Vin+ /Vin- DC 0 SIN( 0 325 50 -50ms 0 0 ) AC 1  
.end

